US09403768B2
To a solution of (S)-1-{(S)-2-[(S)-2-(tert-butoxycarbonyl-methyl-amino)-propionylamino]-3-methyl-butyryl}-2,3-dihydro-1H-indole-2-carboxylic acid ethyl ester (2.93 g, 6.16 mmol) in THF/water/methanol (3:1:1; 60 mL) was added 1 M aqueous lithium hydroxide (18.5 mL, 18.5 mmol). The reaction mixture was stirred at 23° C. for 2.5 h and then concentrated in vacuo. The residue was diluted with water and acidified with 6 M and then 1 M aqueous HCl to pH˜2. The mixture was extracted with EtOAc, the organic layer was dried over Na2SO4 and concentrated in vacuo to give (S)-1-{(S)-2-[(S)-2-(tert-butoxycarbonyl-methyl-amino)-propionylamino]-3-methyl-butyryl}-2,3-dihydro-1H-indole-2-carboxylic acid (2.70 g) as an off-white foam, m/z=470 (M+Na).

reactant | (S)-1-{(S)-2-[(S)-2-(tert-butoxycarbonyl-methyl-amino)-propionylamino]-3-methyl-butyryl}-2,3-dihydro-1H-indole-2-carboxylic acid ethyl ester | 6.16 mmol, 2.93 g | C(C)OC(=O)[C@H]1N(C2=CC=CC=C2C1)C([C@H](C(C)C)NC([C@H](C)N(C)C(=O)OC(C)(C)C)=O)=O | C25H37N3O6
reactant | lithium hydroxide | 18.5 mmol, 1 M, 18.5 mL | [OH-].[Li+]
solvent | THF water methanol | 60 mL | C1CCOC1.O.CO
product | (S)-1-{(S)-2-[(S)-2-(tert-butoxycarbonyl-methyl-amino)-propionylamino]-3-methyl-butyryl}-2,3-dihydro-1H-indole-2-carboxylic acid | 2.70 g | C(C)(C)(C)OC(=O)N([C@H](C(=O)N[C@H](C(=O)N1[C@@H](CC2=CC=CC=C12)C(=O)O)C(C)C)C)C | C23H33N3O6
